2136-11-16 08:57:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
 EKG - At [**2136-11-15**] 08:15 AM
 BLOOD CULTURED - At [**2136-11-15**] 10:10 AM
 FEVER - 101.7
F - [**2136-11-15**] 03:00 PM
   Mr [**Known lastname 6885**] is able to talk about some recent events having to do with
   lice and his housing and his partner
s housing; this is much more
   coherent than prior though still not on point. Was agitated overnight,
   shouting
I request a juice drink
 and
I want chocolate milk
 as well
   as less clear statements (e.g.,
Earthlings!
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2136-11-15**] 11:45 AM
   Ampicillin - [**2136-11-16**] 06:35 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2136-11-16**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-11-16**] 04:15 AM
   Diazepam (Valium) - [**2136-11-16**] 05:58 AM
   Metoprolol - [**2136-11-16**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2136-11-16**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.1
C (96.9
   HR: 110 (104 - 128) bpm
   BP: 157/107(117) {143/83(95) - 186/113(124)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,526 mL
                                                                    289 mL
   PO:
             TF:
   IVF:
                                                                  5,526 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                  1,890 mL
   Urine:
                                                                  2,220 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                 -1,601 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: ///14/
   Ve: 9.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   406 K/uL
   13.2 g/dL
   145 mg/dL
   2.3 mg/dL
   14 mEq/L
   3.8 mEq/L
   45 mg/dL
   117 mEq/L
   143 mEq/L
   37.2 %
   18.7 K/uL
        [image002.jpg]
                             [**2136-11-14**]  09:06 PM
                             [**2136-11-15**]  05:16 AM
                             [**2136-11-15**]  12:48 PM
                             [**2136-11-15**]  09:12 PM
                             [**2136-11-16**]  04:00 AM
   WBC
   16.8
   14.7
   18.7
   Hct
   34.2
   35.0
   37.2
   Plt
   422
   463
   406
   Cr
   3.3
   2.9
   2.5
   2.4
   2.3
   Glucose
   [**Telephone/Fax (3) 6884**]07
   145
   Other labs: PT / PTT / INR:15.4/35.3/1.4, ALT / AST:13/19, Alk Phos / T
   Bili:108/0.4, Amylase / Lipase:32/34, Differential-Neuts:89.7 %,
   Lymph:6.3 %, Mono:3.1 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:321 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 DIARRHEA
 WOUND INFECTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-11-14**] 09:30 PM
   18 Gauge - [**2136-11-15**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-11-16 11:00:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2136-11-15**] 08:15 AM
   LP yesterday - negative.
 BLOOD CULTURED - At [**2136-11-15**] 10:10 AM
 FEVER - 101.7
F - [**2136-11-15**] 03:00 PM
   Allergies:
   Atenolol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2136-11-15**] 11:45 AM
   Ampicillin - [**2136-11-16**] 06:35 AM
   Vancomycin - [**2136-11-16**] 10:04 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2136-11-16**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-11-16**] 04:15 AM
   Diazepam (Valium) - [**2136-11-16**] 05:58 AM
   Metoprolol - [**2136-11-16**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-11-16**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.1
C (96.9
   HR: 128 (104 - 128) bpm
   BP: 145/127(113) {143/83(95) - 186/127(131)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,526 mL
                                                                    508 mL
   PO:
             TF:
   IVF:
                                                                  5,526 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                  1,950 mL
   Urine:
                                                                  2,220 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                 -1,442 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: ///14/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, unchanged
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): person, place and time, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.2 g/dL
   406 K/uL
   145 mg/dL
   2.3 mg/dL
   14 mEq/L
   3.8 mEq/L
   45 mg/dL
   117 mEq/L
   143 mEq/L
   37.2 %
   18.7 K/uL
        [image002.jpg]
                             [**2136-11-14**]  09:06 PM
                             [**2136-11-15**]  05:16 AM
                             [**2136-11-15**]  12:48 PM
                             [**2136-11-15**]  09:12 PM
                             [**2136-11-16**]  04:00 AM
   WBC
   16.8
   14.7
   18.7
   Hct
   34.2
   35.0
   37.2
   Plt
   422
   463
   406
   Cr
   3.3
   2.9
   2.5
   2.4
   2.3
   Glucose
   [**Telephone/Fax (3) 6884**]07
   145
   Other labs: PT / PTT / INR:15.4/35.3/1.4, ALT / AST:13/19, Alk Phos / T
   Bili:108/0.4, Amylase / Lipase:32/34, Differential-Neuts:89.7 %,
   Lymph:6.3 %, Mono:3.1 %, Eos:0.6 %, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:321 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 DIARRHEA
   Chronic diarrhea, in the midst of extensive output w/u
 WOUND INFECTION
   Cellulits on back , continue vanc.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Cleared
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Volume responsive
   Tachycardia -
   Likely physiologic. ?TCA overdose (tox. screen remains positive).
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: oral diet
   Glycemic Control:  Comments: Home insulin regimen
   Lines:
   20 Gauge - [**2136-11-14**] 09:30 PM
   18 Gauge - [**2136-11-15**] 10:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes